US04295874
A 11.8 g (0.2 mol) sample of isopropylamine was added dropwise to a cooled (-60° C.) solution of 19.3 g (0.1 mol) chloromethanesulfonyl bromide in 200 ml dichloromethane. The reaction was then allowed to warm to about 25° C. and stirred about 16 hours. The reaction mixture was then filtered, washed with water, dried over magnesium sulfate and evaporated to give crude N-isopropyl chloromethanesulfonamide.

reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | chloromethanesulfonyl bromide | 0.1 mol, 19.3 g | ClCS(=O)(=O)Br | CH2BrClO2S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-isopropyl chloromethanesulfonamide | C(C)(C)NS(=O)(=O)CCl | C4H10ClNO2S
